US07504162B2
The obtained N-benzyl-3,6-dibromocarbazole was allowed to couple with carbazole in the same manner as described in synthesis of N-ethyl-3,6-dibromocarbazole (Embodiment 1) to give N-benzyl-3,6-di(N-carbazolyl)carbazole. The yield was 70%.

reactant | N-benzyl-3,6-dibromocarbazole | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C=C(C=CC12)Br)Br | C19H13Br2N
reactant | carbazole | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | N-ethyl-3,6-dibromocarbazole | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)Br)Br | C14H11Br2N
product | N-benzyl-3,6-di(N-carbazolyl)carbazole | yield was 70% | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C=C(C=CC12)N1C2=CC=CC=C2C=2C=CC=CC12)N1C2=CC=CC=C2C=2C=CC=CC12 | C43H29N3
